US08492556B2
1-(4-Bromophenyl)-3-(4,4-diethyl-2,5-dioxoimidazolidin-1-yl)urea
A mixture of 3-amino-5,5-diethylimidazolidine-2,4-dione CAS 1007-61-0 (70 mg, 0.4 mmol), 4-bromophenylisocyanate CAS 2493-02-9 (80 mg, 0.4 mmol) in toluene (5 mL) was heated at 100° C. for 8 h. Upon cooling the reaction to ambient temperature, Compound 1 separated as a white solid, which was collected by filtration and dried under high vacuum.

reactant | 3-amino-5,5-diethylimidazolidine-2,4-dione | NN1C(NC(C1=O)(CC)CC)=O | C7H13N3O2
reactant | 4-bromophenylisocyanate | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Bromophenyl)-3-(4,4-diethyl-2,5-dioxoimidazolidin-1-yl)urea | BrC1=CC=C(C=C1)NC(=O)NN1C(NC(C1=O)(CC)CC)=O | C14H17BrN4O3
